US05254689
1-[2-(6-Methyl-2-pyridinyl)ethyl]-4-[4-[(methylsulfonyl)amino]benzoyl]piperazine
4-(Methylsulfonylamino) benzoic acid (2.16 g, 10.05 mmol) was added to a stirring solution of 1-hydroxybenzotriazole hydrate (1.36 g, 10.05 mmol) and dicyclohexylcarbodiimide (2.08 g 10.05 mmol) in DMF (30 mL) at 25° C. under nitrogen. After 45 minutes, 1-[2-(6-methyl-2-pyridyl)ethyl]piperazine (2.27 g, 11.05 mmol) was added as a suspension in DMF (15 mL). The resulting mixture was stirred at room temperature overnight. The work-up was performed as disclosed in Example 5 to give 2.94 g (73%) of the title compound which was treated with ethanolic HCl to afford 2.15 g of product as a dihydrochloride: mp 165°-167° C.; 1H NMR (DMSO-d6): δ 10.14 (s, 1H), 8.19 (m, 1H), 7.63 (m, 2H), 7.45 (d, J=8.72 Hz, 2H), 7.25 (d, J=8.71 Hz, 2H), 3.85-3.20 (m, 12H), 3.06 (s, 3H), 2.67 (s, 3H); IR (KBr): 3420, 3000, 2560, 1640 cm-1 ; MS (m/z) 403 (MH+, 25%) 217 (30), 91 (100).

reactant | 4-(Methylsulfonylamino) benzoic acid | 10.05 mmol, 2.16 g | CS(=O)(=O)NC1=CC=C(C(=O)O)C=C1 | C8H9NO4S
reactant | 1-hydroxybenzotriazole hydrate | 10.05 mmol, 1.36 g | O.ON1N=NC2=C1C=CC=C2
reactant | dicyclohexylcarbodiimide | 10.05 mmol, 2.08 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-[2-(6-methyl-2-pyridyl)ethyl]piperazine | 11.05 mmol, 2.27 g | CC1=CC=CC(=N1)CCN1CCNCC1 | C12H19N3
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 1-[2-(6-Methyl-2-pyridinyl)ethyl]-4-[4-[(methylsulfonyl)amino]benzoyl]piperazine | 2.94 g, 73% | CC1=CC=CC(=N1)CCN1CCN(CC1)C(C1=CC=C(C=C1)NS(=O)(=O)C)=O | C20H26N4O3S
